US03959200
Dimethyl isophthalate, 1.37 kg, and ethylene glycol, 0.92 kg, were charged into a reactor together with an ester exchange catalyst which was a mixture of 2.05 g manganese acetate and 1.35 g diantimony trixoide. The ester exchange reaction was carried out as described in Example 1, and 3.29 kg of bis(hydroxyethyl)adipate was added to the product thus obtained. The polymerization was carried out at 265°C. at 1 mm Hg pressure for 6 hours to provide a poly(ethylene isophthalate/adiphate) having a mol ratio of isophthalate to adipate of 33 to 67 and having an intrinsic viscosity of 0.56, as determined in a solvent mixture of 25 volume percent trifluoroacetic acid and 75 volume percent methylene chloride.

reactant | Dimethyl isophthalate | C(C1=CC(C(=O)OC)=CC=C1)(=O)OC | C10H10O4
reactant | diantimony | 1.35 g | [Sb]#[Sb] | 2Sb
reactant | bis(hydroxyethyl)adipate | 3.29 kg | OCCOC(CCCCC(=O)OCCO)=O | C10H18O6
catalyst | manganese acetate | 2.05 g | C(C)(=O)[O-].[Mn+2].C(C)(=O)[O-]
solvent | ethylene glycol | C(CO)O | C2H6O2
product | ethylene isophthalate | C1(C2=CC(C(=O)OCCO1)=CC=C2)=O | C10H8O4
